US07579488B2
C. 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-2-carboxylic acid ethyl ester.
5-(1-Ethyl-1-hydroxy-propyl)-benzofuran-2-carboxylic acid ethyl ester (5.70 g, 22.1 mmol) and o-cresol (2.86 g, 26.5 mmol) and BF3-Et2O (3.13 g, 22.1 mmol) are reacted analogous to Example 1D to give the title compound (7.10 g, 88%).

reactant | 5-(1-Ethyl-1-hydroxy-propyl)-benzofuran-2-carboxylic acid ethyl ester | 22.1 mmol, 5.70 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)C(CC)(O)CC | C16H20O4
reactant | o-cresol | 26.5 mmol, 2.86 g | C1(=CC=CC=C1O)C | C7H8O
reactant | BF3 Et2O | 22.1 mmol, 3.13 g | B(F)(F)F.CCOCC
product | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-2-carboxylic acid ethyl ester | 7.10 g, 88% | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C23H26O4
